2107-01-12 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - patient agitated, grabbing at staff, trying to get out of bed,
   received Zyprexa x 1 overnight with some improvement in agitation, but
   required 2 point restraints overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-12**] 05:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-12**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 67 (55 - 84) bpm
   BP: 155/54(83) {115/35(58) - 188/65(99)} mmHg
   RR: 21 (19 - 26) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                    469 mL
                                                                    230 mL
   PO:
             TF:
   IVF:
                                                                    289 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    765 mL
   Urine:
                                                                  1,625 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
                                                                     25 mL
                                                                      5 mL
   Balance:
                                                                 -1,181 mL
                                                                   -535 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: 7.49///33/
   Physical Examination
   GEN: Middle aged man, mumbles to questions, in 2 point restraints with
   O2 facemask on
   HEENT: PERRL, EOMI, Mucous membranes dry
   CV: Distant heart sounds, IV/VI systolic murmur loudest at LUSB
   partially obscuring S1, pericardial drain with minimal sanginuous fluid
   PULM: Coarse breath sounds to auscultation anteriorly
   ABD: soft, NT/ND, no masses, normoactive bowel sounds
   SKIN: No rashes or ecchymoses
   EXT: WWP 2+ DP pulses. No edema.
   NEURO: Moving all extremities to commands.
   Labs / Radiology
   768 K/uL
   8.7 g/dL
   161 mg/dL
   1.3 mg/dL
   33 mEq/L
   3.7 mEq/L
   84 mg/dL
   111 mEq/L
   153 mEq/L
   26.2 %
   11.4 K/uL
        [image002.jpg]
                             [**2107-1-11**]  08:29 PM
                             [**2107-1-12**]  05:01 AM
   WBC
   12.8
   11.4
   Hct
   25.2
   26.2
   Plt
   731
   768
   Cr
   1.3
   Glucose
   161
   Other labs: PT / PTT / INR:24.1/30.2/2.3, Mg++:3.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   70 yo man with h/o HTN and recently diagnosed AFlutter who presented
   from OSH with pericardial effusion, AMS, and ARF.
   .
   #. Pericardial effusion s/p drain:  Bloody effusion generally
   suggestive of malignancy.  However, this effusion may be a result of
   anticoagulation in the setting of possible uremic pericarditis.
   - f/u Cytology, other studies
   - Vitamin K and FFP if bleeding increasing
   - monitor drain output, follow protocol
   - repeat TTE once drain output stopped
   .
   #. Atrial Flutter: His RA thrombus is a contraindication to
   cardioversion.
   - Continue Digoxin, Cardizem, and Metoprolol
   - hold anticoagulation for now
   .
   # RA thrombus: Per family, the finding was questionable.  It was not
   documented in the transfer notes.  It was seen on [**1-6**] and he started
   coumadin on [**12-23**].  Since he had not been on coumadin for long enough to
   resolve a clot, I would not consider this a treatment failure. His
   physician at [**Hospital3 735**], Dr. [**Last Name (STitle) 10213**], was contact[**Name (NI) **] for
   clarification.
   - F/U with [**Hospital3 735**] provider
   [**Name Initial (PRE) **] [**Name9 (PRE) **] anticoagulation for now as bleeding risk is great
   .
   #. Multifocal Pneumonia: The patient was found to have a suggestion of
   multifocal PNA on CT dated [**1-9**]. He was transferred on Imipenem and
   Levofloxacin. Given the fact that the patient was intubated for 10
   days, he may have a HAP, but sputum cultures from OSH taken on [**1-4**]
   were negative.
   - Wean O2 as tolerated
   - Zosyn for 8 day course from [**1-10**]
   - S&S C/S once MS cleared
   .
   #. Altered Mental Status: The patient has had AMS since extubation. EEG
   was c/w metabolic encephalopathy.  An urgent head CT was ordered that
   did not demonstrate e/o of an acute intracranial process.  A small
   stroke would not likely cause this degree of encephalopathy.
   - f/u head CT final read
   - Neuro C/S for persistently garbled speech, nonlinear thought process
   .
   #. Acute renal failure: The patient's creatinine increased at the OSH
   from his baseline of 0.5 to 2.6, in the setting of extensive diuresis.
   This appears to have improved here, but FeNa on admission still 0.5%
   and patient with some e/o hypernatremia c/w hypovolemic hyponatremia.
   - Trend Creatinine
   - Hold on IVFs for now, will receive 250cc free water flushes q4H with
   TF
   .
   #. Hematauria: The patient was found to have hematuria at OSH, and
   there was concern for bladder cancer, given his history of smoking.
   Urology was consulted and recommended an outpatient cystoscopy.  Will
   f/u with Urology as an outpatient.
   .
   #. Anemia: The patient's hct has dropped on this admission from 43 to
   26.6.  Bleeding into pericardium and urine.  He was reportedly guaiaic
   negative at OSH.  B12, folate normal.  Fe studies showed 19%
   saturation, Fe 43, and [**Last Name (un) **] 1190 c/w ongoing inflammation and possible
   mild Fe deficiency.
   - Guaiac all stools
   - Trend Hct, transfuse to 21 or significant bleeding.
   - Ferrous Sulfate 325mg PO daily
   ICU Care
   Nutrition: Tube feeds w/ 250cc free water flushes, consult placed
   Glycemic Control: Insulin sliding scale
   Lines:
   20 Gauge - [**2107-1-11**] 01:18 PM
   Cordis/Introducer - [**2107-1-11**] 01:19 PM
   Arterial Line - [**2107-1-11**] 01:19 PM
   Prophylaxis:
   DVT: hold anticoagulation; SQH when INR < 1.5
   Stress ulcer: not indicated
   Code status:  FULL
   Disposition: ICU
   ------ Protected Section ------
   Attending
s Note; 09.00 hrs
   Reviewed Dr.[**Last Name (STitle) 12599**]
s note and agree with data which I reviewed.
   Examined Pt and agree with Rx plan.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   Spent 40 mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2107-1-13**] 13:49 ------

2107-01-13 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient with expressive aphasia, Neurology concerned for CVA,
   recommended Carotid US and MRI
   - Carotid US: Right ICA stenosis40-59, Left ICA stenosis <40%.
   - Pericardial [** **] put out 10cc over the course of the day, none since
   MN, so TTE re-ordered
   - Pericardial fluid demonstrates no growth to date, cytology still
   pending
   - 9PM, spiked a temperature to 101.6 on Zosyn. UA/Blood cx ordered.
   - NA 155, free H20 flushes increased to 250cc q2hrs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-12**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-13**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.7
C (99.8
   HR: 71 (60 - 95) bpm
   BP: 150/51(79) {144/47(79) - 170/62(97)} mmHg
   RR: 21 (16 - 31) insp/min
   SpO2: 93%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 73 Inch
                  Total In:
                                                                  1,309 mL
                                                                  1,458 mL
   PO:
                  TF:
                                                                    349 mL
                                                                    338 mL
   IVF:
                                                                    210 mL
   Blood products:
   Total out:
                                                                  2,305 mL
                                                                    850 mL
   Urine:
                                                                  2,295 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
                                                                     10 mL
   Balance:
                                                                   -996 mL
                                                                    608 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///37/
   Physical Examination
   GEN: Middle aged man, mumbles to questions, in 2 point restraints with
   O2 facemask on
   HEENT: PERRL, EOMI, Mucous membranes dry
   CV: Distant heart sounds, IV/VI systolic murmur loudest at LUSB,
   pericardial [**Year (2 digits) **] in place
   PULM: Coarse breath sounds to auscultation anteriorly
   ABD: soft, NT/ND, no masses, normoactive bowel sounds
   SKIN: No rashes or ecchymoses
   EXT: WWP 2+ DP pulses. No edema.
   NEURO: Moving all extremities to commands, repeats interviewer
   statements, garbled speech
   Labs / Radiology
   808 K/uL
   8.8 g/dL
   177 mg/dL
   0.9 mg/dL
   37 mEq/L
   4.2 mEq/L
   43 mg/dL
   114 mEq/L
   157 mEq/L
   27.7 %
   10.3 K/uL
        [image002.jpg]
                             [**2107-1-11**]  08:29 PM
                             [**2107-1-12**]  05:01 AM
                             [**2107-1-12**]  04:58 PM
                             [**2107-1-13**]  05:49 AM
   WBC
   12.8
   11.4
   10.7
   10.3
   Hct
   25.2
   26.2
   28.5
   27.7
   Plt
   [**Telephone/Fax (3) 12897**]08
   Cr
   1.3
   1.1
   0.9
   Glucose
   161
   161
   177
   Other labs: PT / PTT / INR:19.7/28.2/1.8, Differential-Neuts:79.5 %,
   Lymph:13.7 %, Mono:5.5 %, Eos:1.0 %, Ca++:8.9 mg/dL, Mg++:2.7 mg/dL,
   PO4:3.0 mg/dL
   Imaging:
   ECHO [**1-11**]: Overall left ventricular systolic function is normal
   (LVEF>55%). RV with borderline normal free wall function. There is no
   residual pericardial effusion. There are no echocardiographic signs of
   tamponade.
   Compared with the prior study (images reviewed) of [**2107-1-11**],
   pericardial effusion (post tap) has resolved. There is no longer
   evidence of RV compression.
   [**1-12**] Carotid Ultrasound: Right ICA stenosis40-59, Left ICA stenosis
   <40%.
   Assessment and Plan
   70 yo man with h/o HTN and recently diagnosed AFlutter who presented
   from OSH with pericardial effusion, AMS, and ARF.
   .
   #. Pericardial effusion s/p [**Month/Year (2) **]:  Bloody effusion generally
   suggestive of malignancy.  However, this effusion may be a result of
   anticoagulation in the setting of possible uremic pericarditis.
   - f/u Cytology, other studies
   - Repeat TTE today
   - Pull pericardial [**Last Name (LF) **], [**First Name3 (LF) **] protocol
   - Vitamin K and FFP if bleeding increasing
   .
   #. Atrial Flutter w/ RA thrombus: His RA thrombus is a contraindication
   to cardioversion.  Finding of thrombus was questionable, will discuss
   with [**Hospital3 735**] provider, [**Last Name (NamePattern4) **]. [**Last Name (STitle) 10213**] today, but given concern
   for stroke, suspicion is high for thrombus.
   - Continue Digoxin, Cardizem, and Metoprolol
   - Hold anticoagulation for now
   - F/U with [**Hospital3 735**] provider
   .
   #. Multifocal Pneumonia: The patient was found to have a suggestion of
   multifocal PNA on CT dated [**1-9**]. He was transferred on Imipenem and
   Levofloxacin. Given the fact that the patient was intubated for 10
   days, he may have a HAP, but sputum cultures from OSH taken on [**1-4**]
   were negative. Patient spiked to 101.6 yesterday evening, blood
   cultures, U/A resent. Concern for pneumonitis given malposition of
   G-tube.
   - Wean O2 as tolerated
   - F/U CXR
   - Continue Zosyn for 8 day course from [**1-10**], can extend coverage if no
   clinical improvement
   - S&S C/S once MS cleared
   .
   #. Altered Mental Status: The patient has had AMS since extubation. EEG
   was c/w metabolic encephalopathy, but common metabolic causes ruled out
   (normal folate/B12). An urgent head CT was ordered that did not
   demonstrate e/o of an acute intracranial process. Neurology was
   consulted and was concerned for CVA. Carotid U/S demonstrated <40%
   stenosis on L and 40-60% on R. Recommended MRI, but patient will not
   tolerate MRI without sedation.
   - F/U Neuro recs
   - PT/OT consult
   - Begin anticoagulation per Neuro with Coumadin if TTE demonstrates no
   reaccumulation of effusion
   .
   # Hypernatremia: Patient with Na 157 up from 155 yesterday, 143 on
   admission. Urine Osm
s, electrolytes, support a hypovolemic
   hyponatremia. Free H2O deficit increased to 6.7L this AM.  Despite
   increasing his free water flushes, remains elevated. To avoid rapid
   re-correction, goal should be no greater than 12 mEq/L over the next 24
   hours & no more than 50% of his free water deficit over the next 24
   hours.
   - Continue free water flushes at 250cc q2H
s, for total free water
   repletion of 3L over the next 24 hours
   - PM electrolytes
   .
   #. Acute renal failure: Resolved. The patient's creatinine increased at
   the OSH from his baseline of 0.5 to 2.6, in the setting of extensive
   diuresis.  Cr normalized to 0.9 today.
   - Trend Creatinine
   .
   #. Hematuria: The patient was found to have hematuria at OSH, and there
   was concern for bladder cancer, given his history of smoking. Urology
   was consulted and recommended an outpatient cystoscopy.  Hematuria
   improved since anticoagulation held. Will f/u with Urology as an
   outpatient.
   .
   #. Anemia: Hct 27.7 today, stable since admission.  Guaiac negative at
   OSH.  B12, folate normal.  Fe studies showed 19% saturation, Fe 43, and
   [**Last Name (un) **] 1190 c/w ongoing inflammation and possible mild Fe deficiency.
   - Guaiac all stools
   - Trend Hct, transfuse to 21 or significant bleeding.
   - Ferrous Sulfate 325mg PO daily
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2107-1-13**] 04:45 AM 55 mL/hour
   Glycemic Control:  Humalog sliding scale
   Lines:
   20 Gauge - [**2107-1-11**] 01:18 PM
   Arterial Line - [**2107-1-11**] 01:19 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: None
   VAP:
   Comments:
   Communication:  Patient
s wife
   [**Name (NI) 36**] status: FULL
   Disposition: pending discontinuation of the pericardial [**Name (NI) **],
   improvement in respiratory function
   ------ Protected Section ------
   Attendings Note:08.30hrs.
   Reviewed data and overnight course.
   Examined Pt and agree with Rx plan outlined by Dr.[**Last Name (STitle) 12599**]
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   Spent 45mins
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2107-1-13**] 13:50 ------

2107-01-14 08:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - F/U TTE: no pericardial effusion, pericardial drain pulled
   - heparin gtt started, with bridge to coumadin (5mg daily)
   - neuro recs: start anticoagulation, speech therapy, f/u with stroke
   attending after discharge
   - OT and speech therapy consult ordered
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-12**] 12:00 PM
   Infusions:
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-14**] 08:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 70 (61 - 99) bpm
   BP: 152/56(89) {144/50(79) - 177/80(222)} mmHg
   RR: 24 (20 - 28) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 73 Inch
             Total In:
                                                                  5,049 mL
                                                                  1,725 mL
   PO:
             TF:
                                                                  1,346 mL
                                                                    517 mL
   IVF:
                                                                    163 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                  2,570 mL
                                                                    770 mL
   Urine:
                                                                  2,570 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,479 mL
                                                                    955 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///34/
   Physical Examination
   GEN: Middle aged man, mumbles to questions, in 2 point restraints with
   O2 facemask on
   HEENT: PERRL, EOMI, Mucous membranes dry
   CV: Distant heart sounds, IV/VI systolic murmur loudest at LUSB,
   pericardial drain in place
   PULM: Coarse breath sounds to auscultation anteriorly
   ABD: soft, NT/ND, no masses, normoactive bowel sounds
   SKIN: No rashes or ecchymoses
   EXT: WWP 2+ DP pulses. No edema.
   NEURO: Moving all extremities to commands, repeats interviewer
   statements, garbled speech
   Labs / Radiology
   946 K/uL
   9.0 g/dL
   181 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.3 mEq/L
   28 mg/dL
   112 mEq/L
   152 mEq/L
   28.2 %
   11.2 K/uL
        [image002.jpg]
                             [**2107-1-11**]  08:29 PM
                             [**2107-1-12**]  05:01 AM
                             [**2107-1-12**]  04:58 PM
                             [**2107-1-13**]  05:49 AM
                             [**2107-1-13**]  03:06 PM
                             [**2107-1-14**]  04:55 AM
   WBC
   12.8
   11.4
   10.7
   10.3
   11.2
   Hct
   25.2
   26.2
   28.5
   27.7
   28.2
   Plt
   [**Telephone/Fax (3) 12897**]08
   946
   Cr
   1.3
   1.1
   0.9
   0.8
   0.7
   Glucose
   161
   161
   177
   178
   181
   Other labs: PT / PTT / INR:16.5/102.2/1.5, Differential-Neuts:79.5 %,
   Lymph:13.7 %, Mono:5.5 %, Eos:1.0 %, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.7 mg/dL
   CXR [**2107-1-13**]: There is slight interval improvement of bilateral pleural
   effusions, now moderate and interval clearing of the lungs with
   persistent bilateral reticular opacities consistent with overload.
   Assessment and Plan
   70 yo man with h/o HTN and recently diagnosed AFlutter who presented
   from OSH with pericardial effusion, AMS, and ARF.
   .
   #. Multifocal Pneumonia: The patient was found to have a suggestion of
   multifocal PNA on CT dated [**1-9**]. He was transferred on Imipenem and
   Levofloxacin. Given the fact that the patient was intubated for 10
   days, he may have a HAP, but sputum cultures from OSH taken on [**1-4**]
   were negative. Patient spiked to 101.6 yesterday evening, blood
   cultures sent. Urine culture negative. Concern for pneumonitis given
   malposition of G-tube. CXR demonstrated bilateral pleural effusions
   consistent with overload, but no obvious consolidation. Patient has not
   spiked since then, but temperatures and WBC remain mildly elevated.
   - Wean O2 as tolerated
   - Continue Zosyn for 8 day course from [**1-10**], last day [**1-17**]
   - S&S consulted, recommending NPO with TF
   .
   #. Altered Mental Status: The patient has had AMS since extubation. EEG
   was c/w metabolic encephalopathy, but common metabolic causes ruled out
   (normal folate/B12). An urgent head CT was ordered that did not
   demonstrate e/o of an acute intracranial process. Neurology was
   consulted and was concerned for CVA. Carotid U/S demonstrated <40%
   stenosis on L and 40-60% on R. Recommended MRI, but patient will not
   tolerate MRI without sedation.  Neuro recommending anticoagulation,
   speech therapy, outpatient follow-up.
   - Continue PT/OT
   - Continue Coumadin 5mg PO qHS
   - As pressures escalate with agitation, increase Amlodipine from 5 to
   10mg PO daily
   .
   #. Pericardial effusion s/p drain:  Bloody effusion generally
   suggestive of malignancy.  However, this effusion may be a result of
   anticoagulation in the setting of possible uremic pericarditis. Repeat
   TTE demonstrated no reaccumulation of the effusion, so drain pulled.
   Cytology negative for malignant cells.
   - Percardial fluid negative for growth to date, f/u final read.
   .
   #. Atrial Flutter w/ RA thrombus: His RA thrombus is a contraindication
   to cardioversion.  Finding of thrombus was questionable, will discuss
   with [**Hospital3 735**] provider, [**Last Name (NamePattern4) **]. [**Last Name (STitle) 10213**] today, but given concern
   for stroke, suspicion is high for thrombus.
   - Continue Digoxin, Cardizem, and Metoprolol
   - Warfarin 5mg PO qHS
   .
   # Hypernatremia: Improved, patient with Na 152 down from 157 yesterday,
   143 on admission. Urine Osm
s, electrolytes, support a hypovolemic
   hyponatremia. Free H2O deficit increased to 4.7L this AM.
   - Continue free water flushes at 250cc q2H
s, for total free water
   repletion of 3L over the next 24 hours
   - PM electrolytes
   .
   #. Acute renal failure: Resolved. The patient's creatinine increased at
   the OSH from his baseline of 0.5 to 2.6, in the setting of extensive
   diuresis.  Cr normalized to 0.7 today.
   .
   #. Hematuria: The patient was found to have hematuria at OSH, and there
   was concern for bladder cancer, given his history of smoking. Urology
   was consulted and recommended an outpatient cystoscopy.  Hematuria
   improved since anticoagulation held. Will f/u with Urology as an
   outpatient.
   .
   #. Anemia: Hct stable since admission.  Guaiac negative at OSH.  B12,
   folate normal.  Fe studies showed 19% saturation, Fe 43, and [**Last Name (un) **] 1190
   c/w ongoing inflammation and possible mild Fe deficiency.
   - Guaiac all stools
   - Trend Hct, transfuse to 21 or significant bleeding.
   - Ferrous Sulfate 325mg PO daily
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2107-1-13**] 04:45 AM 55 mL/hour
   Glycemic Control:  Humalog sliding scale
   Lines:
   20 Gauge - [**2107-1-11**] 01:18 PM
   Arterial Line - [**2107-1-11**] 01:19 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: None
   VAP:
   Comments:
   Communication:  Patient
s wife
   [**Name (NI) 36**] status: FULL
   Disposition:  [**Hospital Ward Name 289**] 3
   ------ Protected Section ------
   Attending
s Note:
   Reviewed data and examined Pt.
   Neuro status unchanged..Awaiting speech/swallowing eval.
   Rx plan as outlined by Dr.[**Last Name (STitle) 12599**]
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   Spent 40mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2107-1-15**] 12:32 ------